US07067665B2
(iii) N-{1-[1-(2-Chloro-pyrimidin-4-yl)-piperidin-4-yl]-ethyl}-formamide
N-(1-Piperidin-4-yl-ethyl)-formamide; compound with acetic acid (350 mg, 1.61 mmol), 2,4-dichloro-pyrimidine (265 mg, 1.78 mmol) and ethyl-diisopropyl-amine (848 mg, 6.56 mmol) in 20 ml of ethanol were heated under reflux for 5 hours. The mixture was evaporated and the residue dissolved in water and extracted with ethyl acetate. The organic layer was dried with MgSO4 and evaporated.

reactant | N-(1-Piperidin-4-yl-ethyl)-formamide; compound with acetic acid | 1.61 mmol, 350 mg | C(C)(=O)O.N1CCC(CC1)C(C)NC=O
reactant | 2,4-dichloro-pyrimidine | 1.78 mmol, 265 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | ethyl-diisopropyl-amine | 6.56 mmol, 848 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-{1-[1-(2-Chloro-pyrimidin-4-yl)-piperidin-4-yl]-ethyl}-formamide | ClC1=NC=CC(=N1)N1CCC(CC1)C(C)NC=O | C12H17ClN4O
